US07319102B1
Preparation of 7-(4-fluorophenyl)-2-methylsulfanyl-7H-pyrrolo[2,3-d]pyrimidine-6-carbonyl chloride (25):
To a cold (0° C.) solution of 7-(4-fluoro-phenyl)-2-methylsulfanyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid, 24, (4.7 g, 15.5 mmol) in dichloromethane (100 mL) is added DMF (0.5 mL) followed by dropwise addition of oxalyl chloride (2.7 mL, 31.1 mmol). The mixture is allowed to slowly warm to room temperature over a period of 3 hours. The reaction mixture is concentrated in vacuo and can be dried azeotropically with toluene to afford 4.7 g of the desired product, which is used without further purification: 1H NMR (300 MHz, CDCl3) δ 9.38 (s, 1H), 8.04 (s, 1H), 7.40-7.20 (m, 4H), 2.58 (s, 3H); ESI+ MS: m/z (rel intensity) 322.0 (100, M++H).

reactant | 7-(4-fluoro-phenyl)-2-methylsulfanyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid | FC1=CC=C(C=C1)N1C(=CC2=C1N=C(N=C2)SC)C(=O)O | C14H10FN3O2S
reactant | DMF | 0.5 mL | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 31.1 mmol, 2.7 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 7-(4-fluorophenyl)-2-methylsulfanyl-7H-pyrrolo[2,3-d]pyrimidine-6-carbonyl chloride | 4.7 g | FC1=CC=C(C=C1)N1C(=CC2=C1N=C(N=C2)SC)C(=O)Cl | C14H9ClFN3OS
